US06737417B2
A solution of (R)-7-benzyloxy-3-(4-benzyloxyphenyl)-3,4-dihydro-2H-benzo[1,4]oxazine (47.6 mg, 0.112 mmol), sodium iodide (67 mg, 0.450 mmol), potassium carbonate (31 mg, 0.224 mmol) and allyl bromide (0.04 ml, 0.473 mmol) in acetone (1 ml) was stirred for 3 hours at 50° C. under a nitrogen stream and then heated under reflux for 7 hours. After cooling, water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/5, v/v) to give (R)-4-allyl-7-benzyloxy-3-(4-benzyloxyphenyl)-3,4-dihydro-2H-benzo[1,4]oxazine (44 mg, Yield 85%).

reactant | (R)-7-benzyloxy-3-(4-benzyloxyphenyl)-3,4-dihydro-2H-benzo[1,4]oxazine | 0.112 mmol, 47.6 mg | C(C1=CC=CC=C1)OC1=CC2=C(N[C@@H](CO2)C2=CC=C(C=C2)OCC2=CC=CC=C2)C=C1 | C28H25NO3
reactant | sodium iodide | 0.450 mmol, 67 mg | [I-].[Na+]
reactant | potassium carbonate | 0.224 mmol, 31 mg | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 0.473 mmol, 0.04 ml | C(C=C)Br | C3H5Br
solvent | acetone | 1 ml | CC(=O)C | C3H6O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | water | O | H2O
product | (R)-4-allyl-7-benzyloxy-3-(4-benzyloxyphenyl)-3,4-dihydro-2H-benzo[1,4]oxazine | 44 mg, Yield 85% | C(C=C)N1[C@@H](COC2=C1C=CC(=C2)OCC2=CC=CC=C2)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C31H29NO3
